Name:  ___.               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: PODIATRY
 
Allergies: 
Shellfish Derived / NSAIDS (Non-Steroidal Anti-Inflammatory 
Drug)
 
Attending: ___.
 
Chief Complaint:
Post operative right foot pain
Right bunion
Left tailors bunion
 
Major Surgical or Invasive Procedure:
___: 
Right Foot Bunionectomy 
Left Foot Tailor's Bunionectomy 
Regional Block RLE 

 
History of Present Illness:
___ female now status post right foot bunionectomy
and left foot tailor's bunionectomy.  The procedure and
anesthesia went well without complications today.  Patient was
doing well until approximately 4 hours postoperatively.  She
began complaining of severe 9 out of 10 pain to her right foot. 
Doses of oral oxycodone were attempted but patient vomited. 
Patient has been responding moderately to IV Dilaudid.  The PACU
nurse did not feel comfortable letting the patient go home in 
her
current condition.  Patient was also evaluated by anesthesia,
they recommended a regional block.  Patient does not feel
comfortable going home tonight and would like to spend the night
in the hospital.  Patient complains of nausea.  She denies any
fevers, chills.  Patient has a history of fibromyalgia.  She is
followed closely in the pain clinic.

 
Past Medical History:
PMH: HSV, HPV, Diet-controlled diabetes, Idiopathic dilated 
cardiomyopathy, Lumbar radiculopathy
PSH: Knee surgery. Gastric bypass, right and Left foot surgery, 
Hysterectomy
 
Social History:
___
Family History:
Non-contributory.
 
Physical Exam:
Physical Exam:
AVSS
General: Alert and oriented ×3, appears comfortable
HEART: RRR
LUNGS: No Resp Distress
ABD: Soft, Non tender, Non distended
Extremities: Surgical dressings clean dry and intact.  Cap 
refill
to all digits less than 3 seconds.  Able to wiggle digits.  
Gross
sensation intact light touch.  Some tenderness palpation of the
right surgical site. Compartments are soft. Neurovascular status 
intact.

 
Brief Hospital Course:
Bilateral foot surgery was performed on ___.  Initially 
postoperatively patient was doing well minimal pain bilaterally. 
 Approximately 4 hours postoperatively she developed began 
developing severe pain to the right foot.  She unfortunately was 
also nauseous and vomiting at the time.  Any oral medication 
that was attempted was unfortunately purged.  The PACU nurse did 
not feel comfortable with the patient being discharged home.  
Patient was evaluated in the postanesthesia care unit with 
anesthesia present approximately 8 hours postoperatively.  
Together we agreed patient would undergo a regional block to the 
right lower extremity and that she would be admitted for pain 
control.  Patient was subsequently admitted to the floor with 
vital signs stable.  Overnight patient's pain was controlled 
with oral medications.  Her vitals remained stable.  Upon 
admission patient stated she was no longer taking any 
antihypertensive medications.  Her blood pressure was 
consistently in the 150s over ___, and felt comfortable.  
Patient did well overnight with her oral pain regimen.  Given 
her regional block, her right lower extremity weightbearing 
status was slightly restricted, given this, physical therapy was 
consulted.  Patient did well with physical therapy and was 
cleared to return home with the use of a walker.  Once a 
regional block wears off she may be weightbearing as tolerated 
in surgical shoes bilaterally. 

Given her positive response to her oral pain regimen overnight
With ice and elevation patient stated she felt ready to return 
home with the understanding that she will still have some 
baseline pain for the next few days but should improve daily.  
On discharge vitals again were stable with BP in a similar range 
and appears baseline for her.  Patient stated she plan to see 
her PCP within the next 2 weeks.  Patient is also scheduled to 
follow-up with podiatry in the next week.  Given clearance from 
physical therapy and good pain control with oral medications 
patient was deemed stable for discharge. 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Acetaminophen 650 mg PO Q6H:PRN Pain - Mild 
2. aluminum chloride 20 % topical PRN 
3. Atenolol 50 mg PO QAM:PRN performance anxiety 
4. Calcium Citrate + D (calcium citrate-vitamin D3) 315-200 
mg-unit oral 2 tablets, BID 
5. Desonide 0.05% Cream 1 Appl TP BID:PRN Rash 
6. diclofenac sodium 1 % topical TID:PRN 
7. Lidocaine 5% Patch 1 PTCH TD QPM 
8. LORazepam 0.5 mg PO HS:PRN anxiety 
9. Multivitamins 1 TAB PO DAILY 
10. mupirocin 2 % topical TID 
11. tacrolimus 0.1 % topical BID:PRN Facial Rash 
12. Tizanidine 2 mg PO ___ CAPSULE(S) BY MOUTH USE ONE TABLET IN 
DAY, 2 IF NEEDED AT NIGHT AS NEEDED USE INSTEAD OF 
CYCLOBENZAPRINE  

 
Discharge Medications:
1.  HYDROmorphone (Dilaudid) ___ mg PO Q3H:PRN Pain - Moderate 
RX *hydromorphone 2 mg ___ tablet(s) by mouth Q3H Disp #*50 
Tablet Refills:*0 
2.  Ondansetron 4 mg PO Q8H:PRN Nausea 
RX *ondansetron 4 mg ___ tablet(s) by mouth Q8H:PRN Disp #*20 
Tablet Refills:*0 
3.  Acetaminophen 975 mg PO Q6H 
RX *acetaminophen 325 mg 3 tablet(s) by mouth Q6H:PRN Disp #*90 
Tablet Refills:*0 
4.  LORazepam 0.5 mg PO QHS:PRN anxiety  
5.  Tizanidine 2 mg PO QPM:PRN Insomnia  
6.  aluminum chloride 20 % topical PRN  
7.  Atenolol 50 mg PO QAM:PRN performance anxiety  
8.  Calcium Citrate + D (calcium citrate-vitamin D3) 315-200 
mg-unit oral 2 tablets, BID  
9.  Desonide 0.05% Cream 1 Appl TP BID:PRN Rash  
10.  diclofenac sodium 1 % topical TID:PRN pain  
11.  Lidocaine 5% Patch 1 PTCH TD QPM  
12.  Multivitamins 1 TAB PO DAILY  
13.  mupirocin 2 % topical TID  
14.  Tacrolimus 0.1 % topical BID:PRN Facial Rash  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Right Foot Bunion
Left Foot Tailors Bunion
Post operative Pain

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
It was a pleasure taking care of you at ___. You were admitted 
to the Podiatric Surgery service after your b/l foot surgery due 
to post operative pain. You were given both IV and oral pain 
medication. You were also given a regional block to the Right 
Leg. You were evaluated by physical therapy as well.

ACTIVITY:
There are restrictions on activity. Please use the walker 
provided and remain non weight bearing to your R foot until your 
regional block wears off, likely in the next ___ hours. Once the 
regional has worn off, your can be weightbearing as tolerated in 
surgical shoe to both feet. You should keep this site elevated 
when ever possible (above the level of the heart!). You should 
ice around the front and back of your ankles every hour for 20 
min. 

No driving until cleared by your Surgeon.
PLEASE CALL US IMMEDIATELY FOR ANY OF THE FOLLOWING PROBLEMS:
Redness in or drainage from your leg wound(s).
New pain, numbness or discoloration of your foot or toes.
Watch for signs and symptoms of infection. These are: a fever 
greater than 101 degrees, chills, increased redness, or pus 
draining from the incision site. If you experience any of these 
or bleeding at the incision site, CALL THE DOCTOR.

Exercise:
Limit strenuous activity for 6 weeks.
No heavy lifting greater than 20 pounds for the next ___ days.
Try to keep leg elevated when able.

BATHING/SHOWERING:
You may shower immediately upon coming home, but you must keep 
your dressing CLEAN, DRY and INTACT. You can use a shower bag 
taped around your ankle/leg or hang your foot/leg outside of the 
bathtub. 

Avoid taking a tub bath, swimming, or soaking in a hot tub for 4 
weeks after surgery or until cleared by your physician.

MEDICATIONS:
Unless told otherwise you should resume taking all of the 
medications you were taking before surgery. 
Remember that narcotic pain meds can be constipating and you 
should increase the fluid and bulk foods in your diet. (Check 
with your physician if you have fluid restrictions.) If you feel 
that you are constipated, do not strain at the toilet. You may 
use over the counter Metamucil or Milk of Magnesia. Appetite 
suppression may occur; this will improve with time. Eat small 
balanced meals throughout the day. 

DIET:
There are no special restrictions on your diet postoperatively. 
Poor appetite is not unusual for several weeks and small, 
frequent meals may be preferred.

FOLLOW-UP APPOINTMENT:
Be sure to keep your medical appointments. 
If a follow up appointment was not made prior to your discharge, 
please call the office on the first working day after your 
discharge from the hospital to schedule a follow-up visit. This 
should be scheduled on the calendar for seven to fourteen days 
after discharge. Normal office hours are ___ 
through ___.
PLEASE FEEL FREE TO CALL THE OFFICE WITH ANY OTHER CONCERNS OR 
QUESTIONS THAT MIGHT ARISE.

 
Followup Instructions:
___